US05132204
Preparation of 3-hydroxylphenylmethoxymethyleneadamantane (compound 8):
A 500 ml three-neck, round bottom flask is fit with a reflux condenser, 125 ml addition funnel, and a nitrogen inlet line with a two-way valve control. After the addition of 200 ml of dry THF, the solution is stirred and cooled under nitrogen on an ice bath. TiCl3 (156 mmol) is added rapidly followed by lithium aluminum hydride (75 mmol) in portions. The ice bath is removed and the solution is permitted to warm to ambient temperature. Upon the addition of triethylamine (86 mmol), the solution is refluxed for 1 h. At this time, a solution of 15-20 mmol of methyl 3-hydroxybenzoate and approximately a 10-20% excess of 2-adamantanone adamantane in about 50 ml of THF are added dropwise over several hours by means of the addition funnel. Refluxing is continued for another several hours. After completion, the cooled solution is quenched by the slow addition of about 50 ml of methanol, then about 100 ml of water. The black mixture is diluted in ether and repeatedly extracted with water until the aqueous phase is no longer colored. The solution is dried over Na2SO4 and concentrated in vacuo. Silica column chromatography is used to purify the desired product, 3-hydroxylphenylmethoxymethylene-adamantane. Ethyl acetate/hexane or methanol/CH2Cl2 solvent systems could be employed. The product (anticipated 10-30% yield; probably an oil) is characterized by NMR.

reactant | lithium aluminum hydride | 75 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethylamine | 86 mmol | C(C)N(CC)CC | C6H15N
reactant | methyl 3-hydroxybenzoate | 15-20 mmol | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 2-adamantanone adamantane | C12CC3CC(CC(C1)C3)C2.C23C(C1CC(CC(C2)C1)C3)=O
solvent | THF | about 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-hydroxylphenylmethoxymethyleneadamantane | 10-30% yield | OC12C(C3CC(CC(C1)C3)C2)=COCC2=CC=CC=C2 | C18H22O2
